US06949542B2
(2-{3-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J28) (271 mg, 0.75 mmol) and 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K15) (244 mg, 0.75 mmol) according to the general procedure M.

reactant | (2-amino-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 271 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)N)=O | C16H22F3N3O3
reactant | 3-[3-(2,6-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 244 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O | C20H23NO3
product | (2-{3-[3-(2,6-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)C)C)=O)=O | C32H35F3N4O5
